US07166604B2
(d) Synthesis of 7-Hydroxy-4-ethoxyquinazoline
A mixture of 7-hydroxyquinazolin-4-one (105 mg, 648 μmol), phosphorous oxychloride (2 ml), and dimethylaniline (85 μl , 671 μmol) was heated at reflux for 15 minutes in an argon atmosphere. The cooled mixture was concentrated under vacuum, and kept in an argon atmosphere to avoid hydrolysis. This residue was dissolved in ethanol (anhydrous, 3 mL), and a solution of sodium (283 mg, 12.34 mmol) in ethanol (3 ml) was added dropwise. The resulting yellow mixture was stirred at room temperature under argon for 2 hours, acidified to pH 6 using NaH2PO4 and extracted with ethyl acetate (3×50 mL). The combined extracts were dried (MgSO4), filtered and concentrated. The white solid (156 mg) was used without further purification.

reactant | 7-hydroxyquinazolin-4-one | 648 μmol, 105 mg | OC1=CC=C2C(NC=NC2=C1)=O | C8H6N2O2
reactant | phosphorous oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylaniline | 671 μmol, 85 μl | CN(C1=CC=CC=C1)C | C8H11N
reactant | sodium | 12.34 mmol, 283 mg | [Na] | Na
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 7-Hydroxy-4-ethoxyquinazoline | OC1=CC=C2C(=NC=NC2=C1)OCC | C10H10N2O2
